US04436915
6-bromo-8-chloro-chroman (I b1)
To the amalgam of zinc--prepared from 1280 g (19.7 gram-atoms) of zinc, 128 g (5.4×10-1M) of mercurous chloride, 64 cm3 of concentrated hydrochloric acid and 1900 cm3 of water--are added, in order, 1000 cm3 water, 1500 cm3 of concentrated hydrochloric acid, 3500 cm3 of toluene and 640 g (2.45 M) of 6-bromo-8-chloro-4-chromanone (III2). The mixture is refluxed for 1 hour and, after cooling and decantation, it is extracted with ether and washed in water up to neutrality. 305 g (yield=50%) of expected product are thus isolated. B.p.0.01 =128° C.

reactant | hydrochloric acid | 64 cm3 | Cl | ClH
reactant | water | 1900 cm3 | O | H2O
reactant | water | 1000 cm3 | O | H2O
reactant | hydrochloric acid | 1500 cm3 | Cl | ClH
reactant | 6-bromo-8-chloro-4-chromanone | 2.45 M, 640 g | BrC=1C=C2C(CCOC2=C(C1)Cl)=O | C9H6BrClO2
catalyst | zinc | [Zn] | Zn
catalyst | zinc | 1280 g | [Zn] | Zn
solvent | toluene | 3500 cm3 | C1(=CC=CC=C1)C | C7H8
product | 6-bromo-8-chloro-chroman | 305 g, yield=50% | BrC=1C=C2CCCOC2=C(C1)Cl | C9H8BrClO
